US09422290B2
1-Methyl-5-phenoxy-1H-pyrazol-4-ylamine
To a stirred mixture of 1-Methyl-5-phenoxy-1H-pyrazole-4-carboxylic acid (16.00 g; 73.32 mmol), t-BuOH (51.20 g; 690.77 mmol) in 1,4-dioxane under argon was added DIPEA (37.44 g; 289.69 mmol) and Diphenylphosphoryl azide (41.60 g; 151.16 mmol). After 10 minutes at ambient temperature it was heated up to 110° C. and stirred there for 3 hours. The solvent was evaporated and the crude material purified by column chromatography. This compound was dissolved in DCM and treated with 4 M HCl in 1,4-dioxane. It was stirred for 2 days at ambient temperature. The solvent was evaporated and the residue dissolved in water and washed with EtOAc. The aqueous layer was basified with NaHCO3 solution and extracted with EtOAc. The organic layer was dried and concentrated to dryness.

reactant | 1-Methyl-5-phenoxy-1H-pyrazole-4-carboxylic acid | 73.32 mmol, 16.00 g | CN1N=CC(=C1OC1=CC=CC=C1)C(=O)O | C11H10N2O3
reactant | t-BuOH | 690.77 mmol, 51.20 g | CC(C)(C)O | C4H10O
reactant | DIPEA | 289.69 mmol, 37.44 g | CCN(C(C)C)C(C)C | C8H19N
reactant | Diphenylphosphoryl azide | 151.16 mmol, 41.60 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 1-Methyl-5-phenoxy-1H-pyrazol-4-ylamine | CN1N=CC(=C1OC1=CC=CC=C1)N | C10H11N3O
